US04929634
2(p-Chlorophenyl)-pyrrole-3-carbonitrile
To 108 mL of trifluoroacetic acid stirred at 23° C. is added 54.00 g (0.183 mol) of solid p-chloro-β-[(formylmethyl)amino]cinnamonitrile, diethyl acetal over a period of 45 minutes. This addition produced an exotherm to 38° C. and, 32 minutes into the addition, a solid started to precipitate. After stirring at room temperature for 30 minutes, the reaction mixture is vacuum filtered and the collected solid is washed first with trifluoroacetic acid, secondly with an ethyl acetate-hexane mixture, and finally with hexane. The yield is 16.83 g (45.4%) of an off-white solid, mp 165°-166° C. The following anal. data is from a similarly prepared sample.

reactant | p-chloro-β-[(formylmethyl)amino]cinnamonitrile | ClC1=CC=C(C(=CC#N)NCC=O)C=C1 | C11H9ClN2O
solvent | trifluoroacetic acid | 108 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2(p-Chlorophenyl)-pyrrole-3-carbonitrile | ClC1=CC=C(C=C1)C=1NC=CC1C#N | C11H7ClN2
